US06294558B1
1-(2-Fluoro-4-hydroxyphenyl)-1-ethanone (step 1)
To a stirred suspension of aluminum chloride (42 g, 312 mmol) in 1,2-dichloroethane (100 ml) was added 3-fluorophenol (31 g, 276 mmol) dropwise at 0° C. After addition, acetyl chloride (24 g, 306 mmol) was added dropwise and then the mixture was heated at reflux temperature for 16 hours. The mixture was cooled down to room temperature, and poured into ice. The whole was extracted with diethylether. The organic layer was washed with brine, dried over MgSO4, and concentrated in vacuo. The residue was recystallized with hexane to give title compound (3.57 g, 8% yield).

reactant | aluminum chloride | 312 mmol, 42 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | 3-fluorophenol | 276 mmol, 31 g | FC=1C=C(C=CC1)O | C6H5FO
reactant | acetyl chloride | 306 mmol, 24 g | C(C)(=O)Cl | C2H3ClO
solvent | 1,2-dichloroethane | 100 ml | ClCCCl | C2H4Cl2
product | 1-(2-Fluoro-4-hydroxyphenyl)-1-ethanone | 3.57 g, 8% yield | FC1=C(C=CC(=C1)O)C(C)=O | C8H7FO2
